US08022062B2
1-tert-Butyl-3-prop-2-ynyl-imidazolidin-2-one
Dissolve 1-tert-butyl-imidazolidin-2-one (2 g, 14 mmol) in anhydrous THF (60 mL) and cool at −78° C. Slowly add n-butyllithium (6.8 mL, 17 mmol, 2.5 M solution in hexanes). Stir the solution for 30 min. Rapidly add propargyl bromide (3.2 mL, 28.2 mmol, 80% solution in toluene). Warm the solution to room temperature while stirring overnight Concentrate the reaction mixture in vacuo and filter the residue on a short pad of silica gel eluting with dichloromethane/diethyl ether (1:1) to give the title compound as a yellow oil that solidifies on standing (1.77 g, 70%). GC-MS m/z (%) 180 (M+, 7), 165 (100), 123 (12), 84 (17).

reactant | 1-tert-butyl-imidazolidin-2-one | 14 mmol, 2 g | C(C)(C)(C)N1C(NCC1)=O | C7H14N2O
reactant | n-butyllithium | 17 mmol, 2.5 M, 6.8 mL | C(CCC)[Li]
reactant | propargyl bromide | 28.2 mmol, 3.2 mL | C(C#C)Br | C3H3Br
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-tert-Butyl-3-prop-2-ynyl-imidazolidin-2-one | C(C)(C)(C)N1C(N(CC1)CC#C)=O | C10H16N2O
